US07612075B2
(+/−)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid
A solution containing (+/−)-1-(3-amino-4-cyano-benzyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid (20 mg, 0.03 mmol), 1,3,5-triazine (28 mg, 0.34 mmol), and glacial HOAc (20 mg, 0.34 mmol) in absolute EtOH (6 mL) is maintained at reflux for 16 hours. The reaction mixture is concentrated to dryness and then purified by reverse-phase HPLC [Buffer A: water w/0.1% TFA; Buffer B: CH3CN w/0.1% TFA; Gradient: 0% B to 60% B over 30 min] to provide 15 mg (75%) of the title compound as a white solid. 1H NMR (300 MHz, d6-DMSO) δ3.75-4.38 (m, 5H), 4.67 (d, J=14.8 Hz, 1H), 4.79 (d, J=15.3 Hz, 1H), 4.95 (m, 1H), 5.09 (br d, J=16.0 Hz, 1H), 6.18 (m, 1H), 6.71 (m, 1H), 7.64 (m, 2H), 8.31 (d, J=8.5 Hz, 1H), 8.75 (s, 1H), 9.64 (br s, 2H) ppm; MS (ISP loop): m/z 476 (M+H).

reactant | (+/−)-1-(3-amino-4-cyano-benzyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid | 0.03 mmol, 20 mg | NC=1C=C(CN2C(CN(CC2=O)C(COC=2SC(=CC2)Cl)=O)C(=O)O)C=CC1C#N | C19H17ClN4O5S
reactant | 1,3,5-triazine | 0.34 mmol, 28 mg | N1=CN=CN=C1 | C3H3N3
reactant | HOAc | 0.34 mmol, 20 mg | CC(=O)O | C2H4O2
solvent | EtOH | 6 mL | CCO | C2H6O
product | (+/−)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid | 15 mg, 75% | NC1=NC=NC2=CC(=CC=C12)CN1C(CN(CC1=O)C(COC=1SC(=CC1)Cl)=O)C(=O)O | C20H18ClN5O5S
